US07592365B2
2-Acetylamino-4-{4-[3-(3-ethylphenyl)ureido]phenyl}-1H-pyrrole-3-carboxamide
0.061 cm3 (0.426 mmol) of 1-ethyl-3-isocyanatobenzene is added at room temperature to a suspension of 100 mg (0.387 mmol) of 2-acetylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide in 5 cm3 of anhydrous tetrahydrofuran. The reaction medium is stirred at room temperature for 24 hours and then evaporated to dryness under reduced pressure. The crude product is purified by flash chromatography [eluent; dichloromethane/methanol (97/3 by volume)]. After concentrating under reduced pressure the fractions containing the expected product, 107 mg of 2-acetylamino-4-{4-[3-(3-ethylphenyl)ureido]phenyl}-1H-pyrrole-3-carboxamide are obtained in the form of a brown solid.

reactant | 1-ethyl-3-isocyanatobenzene | 0.426 mmol, 0.061 cm3 | C(C)C1=CC(=CC=C1)N=C=O | C9H9NO
reactant | 2-acetylamino-4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | 0.387 mmol, 100 mg | C(C)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)N | C13H14N4O2
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
product | 2-Acetylamino-4-{4-[3-(3-ethylphenyl)ureido]phenyl}-1H-pyrrole-3-carboxamide | C(C)(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)CC | C22H23N5O3
